US04364875
4-Chloro-3-phenoxy-6-nitro-N-(3-trifluoromethyl-benzyl)-aniline
Using a procedure analogous to that described in Example 12, 3 gm (71.2% of theory) of the title compound, m.p. 140°-142° C. (recrystallized from ethanol), were obtained by stirring a mixture of 3.51 gm of 6-chloro-4-nitro-1,3-diphenoxy-benzene, 4 gm of 3-trifluoromethyl-benzylamine and 5 ml of dioxane for 20 hours at 100° C.

reactant | 6-chloro-4-nitro-1,3-diphenoxy-benzene | 3.51 gm | ClC1=CC(=C(C=C1OC1=CC=CC=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C18H12ClNO4
reactant | 3-trifluoromethyl-benzylamine | 4 gm | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 4-Chloro-3-phenoxy-6-nitro-N-(3-trifluoromethyl-benzyl)-aniline | ClC1=C(C=C(NCC2=CC(=CC=C2)C(F)(F)F)C(=C1)[N+](=O)[O-])OC1=CC=CC=C1 | C20H14ClF3N2O3
